US07906645B2
Benzyl 4-[((3R)-1-{3-[4-(methylsulfonyl)phenyl]propyl}piperidin-3-yl)methyl]piperazine-1-carboxylate
3-[4-(Methylsulfonyl)phenyl]propan-1-ol (4.02 g, 18.8 mmol) and Dess-Martin periodate (8.49 g, 20.0 mmol) were stirred in DCM (50 ml) at room temperature overnight. The reaction was washed with NaOH solution (1N, 3×25 ml). Sodium triacetoxyborohydide (5.28 g, 25 mmol) was added to the mixture followed by benzyl 4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxylate (3.97 g, 12.5 mmol) and magnesium sulphate (20.0 mg). The reaction was stirred at room temperature overnight then washed with water (20 ml) and dried using a phase separation cartridge. Silica was added and the solvent removed under reduced pressure to provide a cake which was added to the top of a silica column. Flash column chromatography (silica, 1%-10% MeOH:DCM) gave the title compound as a yellow oil (5.47 g, 85%).

reactant | 3-[4-(Methylsulfonyl)phenyl]propan-1-ol | 18.8 mmol, 4.02 g | CS(=O)(=O)C1=CC=C(C=C1)CCCO | C10H14O3S
reactant | Dess-Martin periodate | 20.0 mmol, 8.49 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C.I(=O)(=O)(=O)[O-]
reactant | benzyl 4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxylate | 12.5 mmol, 3.97 g | N1C[C@@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H27N3O2
reactant | MeOH | CO | CH4O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | magnesium sulphate | 20.0 mg | S(=O)(=O)([O-])[O-].[Mg+2]
product | Benzyl 4-[((3R)-1-{3-[4-(methylsulfonyl)phenyl]propyl}piperidin-3-yl)methyl]piperazine-1-carboxylate | 5.47 g, 85% | CS(=O)(=O)C1=CC=C(C=C1)CCCN1C[C@@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C28H39N3O4S
